US06979741B2
1′-(Anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid benzyl ester
[1,4′]Bipiperidinyl-3-carboxylic acid benzyl ester hydrochloride and anthracene-9-carbonyl chloride were reacted using a procedure analogous to that described above for Example 1 to give the title compound.

reactant | [1,4′]Bipiperidinyl-3-carboxylic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OC(=O)C1CN(CCC1)C1CCNCC1
reactant | anthracene-9-carbonyl chloride | C1=CC=CC2=CC3=CC=CC=C3C(=C12)C(=O)Cl | C15H9ClO
product | 1′-(Anthracene-9-carbonyl)-[1,4′]bipiperidinyl-3-carboxylic acid benzyl ester | C(C1=CC=CC=C1)OC(=O)C1CN(CCC1)C1CCN(CC1)C(=O)C=1C2=CC=CC=C2C=C2C=CC=CC12 | C33H34N2O3
